US04279887
A solution of 15 ml of benzylamine in 20 ml of tetrahydrofuran was reacted with a solution of 8.0 g of o-iodobenzoyl chloride in 20 ml of tetrahydrofuran in accordance with the procedure of Example 3. There was obtained by recrystallization from benzene 9.1 g of N-benzyl-o-iodobenzamide, m.p. 122°-123°, Rf 0.78.

reactant | benzylamine | 15 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | o-iodobenzoyl chloride | 8.0 g | IC1=C(C(=O)Cl)C=CC=C1 | C7H4ClIO
reactant | benzene | 9.1 g | C1=CC=CC=C1 | C6H6
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-benzyl-o-iodobenzamide | C(C1=CC=CC=C1)NC(C1=C(C=CC=C1)I)=O | C14H12INO
